US07534788B2
Step 2: 6-Hydroxy-benzo[b]thiophene-2-carboxylic acid methyl ester
The above prepared 6-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester (0.200 g, 0.900 mmol) was dissolved in 5.5 mL of CH2Cl2, cooled to 0° C., and treated with BBr3 (1.90 mL of 1M solution in CH2Cl2, 2 eq.). After 3 additional h at ambient temperature, the reaction mixture was carefully poured onto crashed ice, twofold extracted with AcOEt, washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=8/2) gave 0.061 g of the title compound as light brown solid.

reactant | 6-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.900 mmol, 0.200 g | COC(=O)C1=CC2=C(S1)C=C(C=C2)OC | C11H10O3S
reactant | BBr3 | 1M, 1.90 mL, 2 eq. | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5.5 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.061 g | COC(=O)C1=CC2=C(S1)C=C(C=C2)O | C10H8O3S
